US08471027B2
A solution of 1-(2-chloro-pyridin-3-yl)-ethanone (6.42 g, 41.3 mmol) and 1,4-dioxane (70 mL, 0.59M) in a large sealed tube vessel was treated with DL-10-camphorsulfonic acid (23.96 g, 103 mmol). The vessel was tightly sealed, placed behind a blast shield, and warmed to 75° C. At this time, the reaction vessel was removed from the oil bath, carefully opened, treated quickly with aniline (5.6 mL, 61.5 mmol), resealed, and lowered back into the oil bath. The reaction was then warmed to 80° C., where it was stirred for 3 h. At this time, the reaction was cooled to 25° C., diluted with ethyl acetate (250 mL) and washed with a saturated aqueous sodium bicarbonate solution (3×250 mL), water (150 mL) and a saturated aqueous sodium chloride solution (150 mL). The organics were dried over magnesium sulfate, filtered, rinsed with ethyl acetate, and concentrated in vacuo. Flash chromatography (AnaLogix Intelliflash 280, 220 g silica gel column, 1-20% ethyl acetate/hexanes) afforded 1-(2-phenylamino-pyridin-3-yl)-ethanone (3.14 g, 36%) as a yellow solid.

reactant | 1-(2-chloro-pyridin-3-yl)-ethanone | 41.3 mmol, 6.42 g | ClC1=NC=CC=C1C(C)=O | C7H6ClNO
reactant | 1,4-dioxane | 0.59M, 70 mL | O1CCOCC1 | C4H8O2
reactant | DL-10-camphorsulfonic acid | 103 mmol, 23.96 g | CC1([C@@H]2CC[C@]1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | aniline | 61.5 mmol, 5.6 mL | NC1=CC=CC=C1 | C6H7N
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-phenylamino-pyridin-3-yl)-ethanone | 3.14 g, 36% | C1(=CC=CC=C1)NC1=NC=CC=C1C(C)=O | C13H12N2O
